US06974822B2
Step (1): 4-(7-bromo-3-oxo-2H-isoquinolin-2-ylmethyl)benzoic acid tert-butyl ester
A suspension of 7-bromo-3-hydroxy-isoquinoline (7.02 g, 28.2 mmol) in dimethylformamide (75 mL) is treated with 4-bromomethylbenzoic acid tert-butyl ester (12.5 g, 36.7 mmol) and cesium carbonate (11.94 g, 36.7 mmol), then stirred overnight at room temperature. The dimethylformamide is evaporated in vacuo, the residue is diluted with ethyl acetate, washed with 1N HCl, the organic portion washed with brine, dried over MgSO4 and evaporated to dryness. The residue is triturated with hot hexanes/ethyl acetate, cooled to room temperature, and the solid is collected by filtration and dried to give the desired product.

reactant | 7-bromo-3-hydroxy-isoquinoline | 28.2 mmol, 7.02 g | BrC1=CC=C2C=C(N=CC2=C1)O | C9H6BrNO
reactant | 4-bromomethylbenzoic acid tert-butyl ester | 36.7 mmol, 12.5 g | C(C)(C)(C)OC(C1=CC=C(C=C1)CBr)=O | C12H15BrO2
reactant | cesium carbonate | 36.7 mmol, 11.94 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 75 mL | CN(C=O)C | C3H7NO
product | 4-(7-bromo-3-oxo-2H-isoquinolin-2-ylmethyl)benzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=CC=C(C=C1)CN1C=C2C=C(C=CC2=CC1=O)Br)=O | C21H20BrNO3
